US03947470
To a cooled solution of 16.2 g. (0.078 mol.) of 3,5-diethyl-4-hydroxybenzoic acid methyl ester and 4.0 g. (0.1 mol.) of sodium hydroxide in 100 ml. of water is added 9.8 g. (7.3 ml., 0.079 mol.) of dimethyl sulfate. The reaction mixture is refluxed for 2 hours. After cooling, ether is added and the layers are separated. The organic phase is washed with water, dilute sulfuric acid and water, dried (Na2SO4) and concentrated to give 3,5-diethyl-4-methoxybenzoic acid methyl ester.

reactant | 3,5-diethyl-4-hydroxybenzoic acid methyl ester | 0.078 mol | COC(C1=CC(=C(C(=C1)CC)O)CC)=O | C12H16O3
reactant | sodium hydroxide | 0.1 mol | [OH-].[Na+]
reactant | water | O | H2O
reactant | dimethyl sulfate | 0.079 mol, 7.3 ml | S(=O)(=O)(OC)OC | C2H6O4S
solvent | ether | CCOCC | C4H10O
product | 3,5-diethyl-4-methoxybenzoic acid methyl ester | COC(C1=CC(=C(C(=C1)CC)OC)CC)=O | C13H18O3
